US07615557B2
To a mixture of 4-nitro-2,3-dihydro-1H-inden-2-yl acetate (100 mg, 0.45 mmol) and ammonium chloride (100 mg) in ethanol (6 ml) and water (3 ml) was added iron powder (300 mg) portionwise at room temperature. The mixture was stirred at 90° C. for 1 hour, and after cooled to room temperature, the mixture was diluted with ethylacetate. The mixture was filtered through a pad of celite, and the filtrate was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure to obtain 4-amino-2,3-dihydro-1H-inden-2-yl acetate.

reactant | 4-nitro-2,3-dihydro-1H-inden-2-yl acetate | 0.45 mmol, 100 mg | C(C)(=O)OC1CC2=CC=CC(=C2C1)[N+](=O)[O-] | C11H11NO4
reactant | ammonium chloride | 100 mg | [Cl-].[NH4+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | iron | 300 mg | [Fe] | Fe
product | 4-amino-2,3-dihydro-1H-inden-2-yl acetate | C(C)(=O)OC1CC2=CC=CC(=C2C1)N | C11H13NO2
